US04698352
In 5 ml of benzene was dissolved 0.3 g of methyl 5-phenyl-3-oxo-4-pentenoate, and 0.2 g of N,N-dimethylformamidodimethylacetal was added to the solution. They were reacted at 60°-70° C. for 2 hours. The reaction mixture was cooled to room temperature, and 0.3 g of 4-(4-acetylpiperazino)-aniline was added thereto. The mixture was subjected to reaction at room temperature for 4 hours. After completion of the reaction, the solvent was removed by distillation under reduced pressure, and the oily substance thus obtained was dissolved in 5 ml of N,N-dimethylformamide, and they were refluxed for 5 hours. After completion of the reaction, the solvent was removed by distillation under reduced pressure, and the residue was purified by a column chromatography (Wako Silica Gel C-200; eluent: chloroform/ethanol (25:1 by volume) mixture). The fraction containing the objective substance was concentrated, and the oily substance thus obtained was dissolved in 4 ml of dioxane, and 0.12 g of 2,3,5,6-tetrachloro-p-benzoquinone was added thereto. They were reacted at 90°-100° C. for 30 minutes. After completion of the reaction, the solvent was removed by distillation under reduced pressure, and the residue was purified by a column chromatography (Wako Silica Gel C-200; eluent: chloroform/ethanol (100:3 by volume) mixture). The fraction containing the objective substance was concentrated, and to the crystals thus formed were added 3 ml of 6N hydrochloric acid, and the resulting mixture was refluxed for 2 hours. Water was removed by distillation under reduced pressure, to obtain 0.12 g of 6-phenyl-1-(4 -piperazinophenyl)-4-oxo-1,4-dihydronicotinic acid dihydrochloride having a melting point of 211°-213° C. (decomp.)

reactant | methyl 5-phenyl-3-oxo-4-pentenoate | 0.3 g | C1(=CC=CC=C1)C=CC(CC(=O)OC)=O | C12H12O3
reactant | 4-(4-acetylpiperazino)-aniline | 0.3 g | C(C)(=O)N1CCN(CC1)C1=CC=C(N)C=C1 | C12H17N3O
reactant | 2,3,5,6-tetrachloro-p-benzoquinone | 0.12 g | ClC=1C(C(=C(C(C1Cl)=O)Cl)Cl)=O | C6Cl4O2
reactant | hydrochloric acid | 6N, 3 ml | Cl | ClH
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 6-phenyl-1-(4 -piperazinophenyl)-4-oxo-1,4-dihydronicotinic acid dihydrochloride | 0.12 g | Cl.Cl.C1(=CC=CC=C1)C=1N(C=C(C(=O)O)C(C1)=O)C1=CC=C(C=C1)N1CCNCC1 | InChI=1S/C22H21N3O3.2ClH/c26-21-14-20(16-4-2-1-3-5-16)25(15-19(21)22(27)28)18-8-6-17(7-9-18)24-12-10-23-11-13-24;;/h1-9,14-15,23H,10-13H2,(H,27,28);2*1H
